US06103754
To a solution of 0.18 g of 5-bromomethyl-4,6-difluorobenzo[b]thiophene in 5 ml of N,N-dimethyl-formamide is added 0.23 g of potassium acetate, and the resulting mixture is stirred at 60° C. for one hour. The temperature of the thus stirred mixture is lowered to room temperature, and 10 ml of water and 10 ml of ethyl acetate are added thereto. Thereafter, the resulting organic layer is separated, washed successively with water and a saturated saline solution and then dried over anhydrous magnesium sulfate. Thereafter, the solvent is removed from the thus dried layer by distillation under educed pressure, to obtain 0.14 g of colorless, oily acetoxymethyl-4,6-difluorobenzo[b]thiophene.

reactant | 5-bromomethyl-4,6-difluorobenzo[b]thiophene | 0.18 g | BrCC1=C(C2=C(SC=C2)C=C1F)F | C9H5BrF2S
reactant | potassium acetate | 0.23 g | C(C)(=O)[O-].[K+]
reactant | water | 10 ml | O | H2O
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethyl-formamide | 5 ml | CN(C=O)C | C3H7NO
product | acetoxymethyl-4,6-difluorobenzo[b]thiophene | C(C)(=O)OCC1=CC2=C(S1)C=C(C=C2F)F | C11H8F2O2S
